data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CCOc1cccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "CCOc1cccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "CCOc1cccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "CCOc1cccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "CCOc1cccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "CCOc1cccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(F)cc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)cc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)cc1F)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)cc2F)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)cc2F)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)cc2F)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)cc2F)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)cc2F)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)cc2F)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(F)cc2F)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cccc(Cl)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(Cl)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(Cl)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cccc(Cl)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cccc(Cl)c1)C2(C)C", "products": "C[C+]1C2(c3cccc(Cl)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cccc(Cl)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cccc(Cl)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Cl)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(Cl)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Cl)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cccc(Cl)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cccc(Cl)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cccc(Cl)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cccc(Cl)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cccc(Cl)c3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(C(=O)C2C3CCC2C3)c(C)c1", "products": "Cc1ccc([C]([O])C2C3CCC2C3)c(C)c1"}, {"reactants": "Cc1ccc([C]([O])C2C3CCC2C3)c(C)c1", "products": "Cc1ccc(C([O])=CC2C[CH]CC2)c(C)c1"}, {"reactants": "Cc1ccc(C([O])=CC2C[CH]CC2)c(C)c1", "products": "Cc1ccc(C(O)=CC2C=CCC2)c(C)c1"}, {"reactants": "Cc1ccc(C(O)=CC2C=CCC2)c(C)c1", "products": "Cc1ccc(C(=O)CC2C=CCC2)c(C)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(OC)c1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(OC)c1Cl)C(C)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1Cl"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1Cl", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1Cl"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1Cl.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1Cl"}, {"reactants": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1Cl", "products": "COc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1Cl.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1F.[Pd]", "products": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1F"}, {"reactants": "COc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1F", "products": "COc1ccc2c(c1F)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc2c(c1F)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc2c(c1F)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(F)cc1)C1C2CCC1C2", "products": "[O][C](c1ccc(F)cc1)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(F)cc1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(F)cc1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(F)cc1", "products": "OC(=CC1C=CCC1)c1ccc(F)cc1"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(F)cc1", "products": "O=C(CC1C=CCC1)c1ccc(F)cc1"}]}
